US08802661B2
Preparation of methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(3-(ethyl(4-methoxy-4-oxobutyl)amino)propylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate. Intermediate 38
A mixture of methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(3-(4-methoxy-4-oxobutylamino)propylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (10 mg, 0.014 mmol) and potassium carbonate (5.69 mg, 0.041 mmol) in dioxane (1 mL) and acetonitrile (1.000 mL) was heated up at 78° C. for 3 hours, LCMS indicated the formation of desired product. The reaction mixture was quenched with distilled water (2 mL), extracted with DCM (3×2 mL). All the extracts were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure to provide the title compound as a colorless oil (10 mg, 96%). LCMS: m/e 757.50 (M+H)+, 2.73 min (method 1).

reactant | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(3-(4-methoxy-4-oxobutylamino)propylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.014 mmol, 10 mg | COC(CCCNCCCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C)=O | C46H68N2O5
reactant | potassium carbonate | 0.041 mmol, 5.69 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 1.000 mL | C(C)#N | C2H3N
product | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(3-(ethyl(4-methoxy-4-oxobutyl)amino)propylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | C(C)N(CCCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C)CCCC(=O)OC | C48H72N2O5
